Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
latex
 
Attending: ___.
 
Chief Complaint:
altered mental status, fatigue

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ y.o M with history of glutaric aciduria type II who 
originally presented to ___ with altered mental status and 
fatigue and was transferred to a higher level of care.  He was 
accompanied by his girlfriend, who reported gradually worsening 
lethargy over the past 12 hours and some concern for missing 
medications.  Labs at ___ were notable for an ammonia 
level of 206, and a CPK of 408.

The patient received 7600 mg of levocarnitine and IV fluids 
prior to transfer at ___.  
Reportedly, the patient is followed at ___ for this genetic 
abnormality, and ___ was contacted prior to transfer.  Due to 
lack of beds, patient was transferred to ___ C instead of ___.

In the ED, initial VS were 98.3 86 126/80 100 100% RA.
Labs notable for CBC with WBC 5.7, H/H of 12.3/35.9, PLT 108.  
BMP with chloride 93, bicarb 23, BUN 24, CR 1.0, anion gap of 
21. LFTs with AST of 36 ALT 27.  ProBNP 450.  VBG showed 7.4 
___.  Lactate 1.2.

In the ED, medical provider spoke with Dr. ___.  
reportedly, the provider confirmed that ___ was unable to accept 
the patient has a transfer.  Dr. ___ recommended to 
monitor CMP, anticipating value such as a low bicarbonate, 
elevated anion gap, high ammonia, elevated pro BNP.  He 
recommended IV fluid resuscitation, as well as 10% dextrose IV 
if necessary.  He recommended IV carnitine 50 mg/kg as tolerated 
and oral riboflavin 100 mg.  Also recommended paging metabolism 
doctor at ___ through the paging system.

ED provider also spoke with Dr. ___ the genetics team, 
reachacble at ___.  Dr. ___ recommended to avoid 
high-fat and to avoid catabolism.  Recommended against TPN.  
Recommendation said that if the patient was able to eat, to 
pursue a low-fat low protein high carbohydrate diet.  
Recommended carnitine to be given every 24 hours and to pursue 
an TTE as an inpatient.
Majority of the history is obtained from ED records as above.  
Upon arrival to the floor, the patient is unaccompanied, with 
significant sleepiness and slowed speech, noncooperative with 
the majority of the history.

When asked about why he came to the hospital, the patient does 
not answer: "I do not know."  When asked who brought him to the 
hospital, he reports he does not know and he does not know why 
he came.  He initially denies all complaints including any pain, 
chest pain, shortness of breath, recent illnesses including 
fevers, chills, cough.  He denies headaches or dysuria.  With 
multiple repeated prompting, he endorses more weakness than 
usual, which he describes as generalized weakness.  He reports 
that he is usually able to walk.  At first he denies nausea, 
however per report, he presented with vomiting.  He subsequently 
endorses vomiting.  When asked if the vomit contained blood, he 
reports "something like that" and will not elaborate further.  
He denies bloody diarrhea.

Patient does not know where he normally gets his care.  When 
asked if he normally gets his care at ___, he reports "I do not 
know."  Other reports suggest he was brought to the hospital 
originally by his girlfriend, he denies having a girlfriend.  
When asked if there is someone such as a mother, father, friend, 
that I could call for more information, he reports that there is 
not.

Following my evaluation, the nurse witnessed the patient 
vomiting, without blood.

 
Past Medical History:
glutaric aciduria type II 
cirrhosis
gastroparesis

 
Social History:
___
Family History:
Limited by patient's mental status.  He denies other genetic 
abnormalities in his family.

 
Physical Exam:
Vitals: 98.1 PO  142 / 73 L Sitting___
Gen: sitting in chair in no apparent distress, awake and alert
HEENT: AT, NC, PERRL, EOMI, MMM, hearing grossly intact
GI: soft, obese, NT, ND, no HSM 
MSK: No edema
Skin: No rashes or ulcerations evident
Neuro: A+O x 4, speech fluent, face symmetric, moving all 
extremities
Psych: calm mood, appropriate affect
 
Pertinent Results:
ADMISSION LABS
___ 11:00PM BLOOD WBC-5.7 RBC-3.70* Hgb-12.3* Hct-35.9* 
MCV-97 MCH-33.2* MCHC-34.3 RDW-16.0* RDWSD-56.8* Plt ___
___ 11:00PM BLOOD Neuts-65.0 ___ Monos-11.3 
Eos-0.5* Baso-0.4 Im ___ AbsNeut-3.69 AbsLymp-1.28 
AbsMono-0.64 AbsEos-0.03* AbsBaso-0.02
___ 11:00PM BLOOD Glucose-80 UreaN-24* Creat-1.0 Na-137 
K-4.5 Cl-93* HCO3-23 AnGap-21*
___ 11:00PM BLOOD ALT-25 AST-56* AlkPhos-109 TotBili-1.4
___ 11:22PM BLOOD cTropnT-<0.01 proBNP-450*
___ 11:00PM BLOOD Albumin-3.5 Calcium-9.5 Phos-2.9 Mg-2.1
___ 11:22PM BLOOD Ammonia-42
___ 11:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 11:11PM BLOOD Lactate-1.2

CXR
IMPRESSION:  
Mild cardiomegaly, otherwise normal chest 

NCHCT
IMPRESSION:   
No acute intracranial abnormalities.  Please note MRI is more 
sensitive for the detection of subtle abnormalities. 

ABDOMINAL US
IMPRESSION: 
1. Evidence of cirrhosis and portal hypertension with patent 
umbilical vein, evidence of varices and splenomegaly.  No 
ascites. 
2. No focal hepatic lesion. 
3. Echogenic left kidney.  Finding is nonspecific and may relate 
to medical renal disease. 
4. Small simple cyst in the right kidney. 
5. Patent main portal vein. 

TTE
The left atrium is mildly dilated. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with top normal cavity size (for body size) and 
normal global systolic function (LVEF>55%). Due to suboptimal 
technical quality, a focal wall motion abnormality cannot be 
fully excluded. The estimated cardiac index is normal 
(>=2.5L/min/m2). Right ventricular cavity size and global free 
wall motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(?#) appear structurally normal with good leaflet excursion. 
There is no aortic valve stenosis. No aortic regurgitation is 
seen. The mitral valve leaflets are structurally normal. There 
is no mitral valve prolapse. Mild (1+) mitral regurgitation is 
seen. The pulmonary artery systolic pressure could not be 
determined. There is no pericardial effusion. 

IMPRESSION: Suboptimal image quality. Mild symmetric left 
ventricular hypertrophy with preserved global biventricular 
systolic function. Mild mitral regurgitation with normal valve 
morphology.

DISCHARGE LABS
___ 08:05AM BLOOD WBC-1.7* RBC-3.41* Hgb-11.4* Hct-33.3* 
MCV-98 MCH-33.4* MCHC-34.2 RDW-15.7* RDWSD-55.0* Plt Ct-42*
___ 08:05AM BLOOD Glucose-89 UreaN-5* Creat-0.7 Na-140 
K-3.9 Cl-101 HCO3-26 AnGap-13
___ 08:45AM BLOOD Calcium-8.8 Phos-2.5* Mg-1.9
___ 08:05AM BLOOD Ammonia-43
___ 08:23AM BLOOD ___ FiO2-. pO2-53* pCO2-48* pH-7.39 
calTCO2-30 Base XS-2 Comment-GREEN TOP
___ 08:23AM BLOOD Lactate-0.___ y.o M with history of liver cirrhosis and preliminary 
diagnosis of glutaric aciduria type II who originally presented 
to ___ with altered mental status and fatigue in the 
setting of nausea, vomiting, and possibly missed medications. 
and was transferred to a higher level of care.

# Cirrhosis and 
# Elevated ammonia ___
# Glutaric aciduria type II, preliminary diagnosis resulting in
# Hepatic encephalopathy 
Pt presented to ___ ___ with c/o 60 lb weight loss, AMS and 
hyperammonemia and he was diagnosed with cirrhosis c/b hepatic 
encephalopathy. CTAP done during that admission showed nodular 
liver c/w cirrhosis and portal HTN. There was no ascites seen on 
imaging. Cirrhosis attributed to long-standing alcohol abuse. He 
was treated with rifaximin and lactulose and mental status 
returned to baseline despite maintaining high ammonia levels 
(~100). Had a parenteral grandfather who died of cirrhosis at a 
young age with no h/o alcoholism. This prompted an extensive w/u 
for other causes including HgbA1c, iron studies, ceruloplasmin, 
HCV, HBV, TSH, A1At, ___ all of which were negative. Given his 
elevated ammonia levels out of proportion of what would be 
expected for cirrhosis, work-up for urea cycle deficiency. Urine 
organic acids and urine orotic acid were sent and were pending 
at the time of discharge. These tests resulted shortly after 
discharge and he was diagnosed with late onset glutaric aciduria 
type 2 (a defect in one of two electron flavoproteins in the 
mitochondria required for fatty acid beta-oxidation). Per 
genetics, his metabolic disorder is more likely the cause of his 
cirrhosis and not alcohol, although could be multifactorial. He 
was given a care plan and was to follow-up with 
Metabolism/Genetics at ___ which had not happened at the time of 
this admission. 

Per family and girlfriend, he had been doing well until 5 days 
prior to admission when he developed abrupt onset nausea and 
vomiting and inability to tolerate PO including medications. He 
was seen by his GI physician, ___, on ___, who, the 
family reported, attributed his N/V to gastroparesis. He 
continued to worsen and and was unable to tolerate PO meds or PO 
diet. He had progressive confusion and lethargy. His girlfriend 
got concerned when he was unable to get out of bed. He was taken 
to an OSH and found to have an ammonia level > 200. Attempts 
were made to transfer to ___ but there was no bed availability. 
He arrived at ___ with continued lethargy. Metabolism/Genetics 
at ___ was contacted instructed the ED providers regarding 
therapy for glutaric aciduria type 2 and metabolic crisis. His 
ammonia level downtrended with carnitine and resuscitation and 
his mental status gradually improved. 

Inciting event remains unclear. It was initially thought that 
the N/V and intolerance of his PO meds resulted in this crisis, 
however, the N/V could have been the early signs of catabolism 
and metabolic crisis. He had an infectious w/u that included the 
following: UA negative. CXR clear. RUQ negative for ascites. 
Blood CS ___ bottles (+) Micrococcus. Repeat blood CS negative. 
Pt did not receive antibiotics. It was determined that 
Micrococcus was a contaminant.   

Case discussed at length with ___ Metabolism, Drs. ___ 
___ (attending) and ___ (fellow). They gave 
specific recommendations focused on metabolic support and 
preventing a catabolic state. They recommended closely 
monitoring for metabolic acidosis, lactic acidosis, 
hyperammonia, hypoglycemia, and rhabdomyolysis. Based on their 
recommendations, plasma asylcaritine and urine asylglycine were 
obtained and are needed to confirm his diagnosis of glutaric 
aciduria type 2. The results were pending at the time of 
discharge. 

He was started on a regimen of D10, l-carnitine IV, riboflavin, 
lactulose, and rifaximin. Over the course of ___ hrs, his 
mental status returned to baseline. He was started on a 
___, low-fat, low-protein diet. Elevated ammonia levels 
returned to normal. Lactic acid remained normal. CPK trended 
down. pH remained normal. Eventually, he was successfully weaned 
off D10 and labs remained normal and there was no associated 
nausea and vomiting.  
 
Additional work-up per recommendations of ___ included TTE and 
renal U/S. TTE for evaluation for cardiomyopathy was 
unremarkable. Renal US for eval of renal cysts showed a single 
simple cyst in the right kidney. 

Per recommendations from geneticist at ___, discharge plan is to 
continue L-carnitine PO, riboflavin, lactulose, and rifaximin. 
He is to have close follow-up with the ___ Genetics Clinic. Our 
social worker and financial advisor worked with him to get his 
health insurance switched to a company that ___ accepts. An 
appointment at the ___ Genetic Clinic was arranged for ___. 
He was counseled to seek medical attention immediately if he 
experiences nausea, vomiting, confusion, lethargy, or any other 
concerning symptom. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Riboflavin (Vitamin B-2) 100 mg PO TID 
2. Rifaximin 550 mg PO BID 
3. Tobramycin-Dexamethasone Ophth Susp 1 DROP LEFT EYE QHS 
4. Metoclopramide 5 mg PO BID 
5. Levothyroxine Sodium 88 mcg PO DAILY 
6. FoLIC Acid 1 mg PO DAILY 
7. Generlac (lactulose) 10 gram/15 mL oral ASDIR 
8. Lisinopril 30 mg PO DAILY 

 
Discharge Medications:
1.  LevoCARNitine 660 mg PO QAM 
RX *levocarnitine [Carnitor] 330 mg 2 tablet(s) by mouth qam 
Disp #*30 Tablet Refills:*0 
2.  LevoCARNitine 330 mg PO QPM 
RX *levocarnitine [Carnitor] 330 mg 1 tablet(s) by mouth qpm 
Disp #*30 Tablet Refills:*0 
3.  Generlac (lactulose) 30 mL oral Q4H 
while awake 
RX *lactulose [Generlac] 10 gram/15 mL 30 ml by mouth q4h while 
awake Refills:*0 
4.  Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
5.  Riboflavin (Vitamin B-2) 300 mg PO DAILY 
RX *riboflavin (vitamin B2) 100 mg 3 tablet(s) by mouth daily 
Disp #*90 Tablet Refills:*0 
6.  FoLIC Acid 1 mg PO DAILY  
7.  Levothyroxine Sodium 88 mcg PO DAILY  
8.  Metoclopramide 5 mg PO BID  
9.  Rifaximin 550 mg PO BID  
10.  Tobramycin-Dexamethasone Ophth Susp 1 DROP LEFT EYE QHS  
11.Outpatient Lab Work
CBC and BMP 
dx: cirrhosis
draw in ___ days
please send results to Dr. ___
fax ___ (office ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Cirrhosis
# Elevated ammonia 
# Glutaric aciduria type II
# Hepatic encephalopathy 
# Pancytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for confusion and altered 
mental status. You were found to have high ammonia levels and 
were diagnosed with a metabolic crisis. You were given a 
dextrose infusion, levocarnitine, riboflavin, rifaximin, and 
lactulose and you quickly improved. You were asked to eat a high 
carbohydrate, low fat, low protein diet and you were eventually 
tapered off the dextrose infusion. It is unclear why this event 
happened. Your infectious work-up was negative. 

You worked with our ___ department and were able to change 
your health insurance and will now be able to be seen at ___ 
___. 

It is very important that you seek urgent medical attention if 
you have nausea, vomiting, confusion, or any other concerning 
symptom in order to get treatment early to prevent you from 
getting as severe as you did during this admission. 
 
Followup Instructions:
___